US07354933B2
A mixture of 1.9 g of selenium oxide dissolved in 35 ml of dioxane is added dropwise to a solution of 2.7 g of 4-methyl-7-methoxyquinoline in 35 ml of dioxane preheated to 65° C. At the end of the addition, the brown suspension is heated to a temperature in the region of 80° C. for 5 hours. The reaction medium is stirred for 16 hours at a temperature in the region of 20° C. The greenish suspension is suction-filtered and then washed with EtOAc. The filtrate is concentrated under reduced pressure. The suspension obtained is crystallized from isopropyl ether to give 1.54 g of 7-methoxyquinoline-4-carbaldehyde.

reactant | selenium oxide | 1.9 g | [Se]=O | OSe
reactant | 4-methyl-7-methoxyquinoline | 2.7 g | CC1=CC=NC2=CC(=CC=C12)OC | C11H11NO
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
product | 7-methoxyquinoline-4-carbaldehyde | 1.54 g | COC1=CC=C2C(=CC=NC2=C1)C=O | C11H9NO2
